US07595398B2
(S)-Thiazolidine-2-carboxylic acid [4-(4-cyclopropylcarbamoyl-phenyl)-thiazol-2-yl]-amide
A solution of (S)-2-[4-(4-cyclopropylcarbamoyl-phenyl)-thiazol-2-ylcarbamoyl]-thiazolidine-3-carboxylic acid tert-butyl ester (341.6 mg, 0.72 mmol) in dichloromethane (3 mL) and trifluoroacetic acid (3 mL) was stirred at ambient temperature overnight. The reaction was filtered and purified by reverse phase HPLC to give the desired product.

reactant | (S)-2-[4-(4-cyclopropylcarbamoyl-phenyl)-thiazol-2-ylcarbamoyl]-thiazolidine-3-carboxylic acid tert-butyl ester | 0.72 mmol, 341.6 mg | C(C)(C)(C)OC(=O)N1[C@@H](SCC1)C(NC=1SC=C(N1)C1=CC=C(C=C1)C(NC1CC1)=O)=O | C22H26N4O4S2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-Thiazolidine-2-carboxylic acid [4-(4-cyclopropylcarbamoyl-phenyl)-thiazol-2-yl]-amide | C1(CC1)NC(=O)C1=CC=C(C=C1)C=1N=C(SC1)NC(=O)[C@@H]1SCCN1 | C17H18N4O2S2
